US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-N′-[(3S)-tetrahydrofuran-3-ylmethyl]benzene-1,4-dicarboxamide
The title compound was prepared as described in Example 1A, substituting (S)-(tetrahydrofuran-3-yl)methanamine for 3-methylbutan-1-amine and 4-(imidazo[1,2-a]pyridin-7-ylmethylcarbamoyl)benzoic acid for 4-nitrobenzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.21 (t, J=5.9 Hz, 1H), 8.69 (t, J=5.7 Hz, 1H), 8.49 (dd, J=6.9, 0.9 Hz, 1H), 8.07-7.71 (m, 5H), 7.52 (d, J=1.2 Hz, 1H), 7.41 (s, 1H), 6.87 (dd, J=7.0, 1.7 Hz, 1H), 4.52 (d, J=5.9 Hz, 2H), 3.80-3.56 (m, 4H), 3.48 (dd, J=8.5, 5.2 Hz, 1H), 2.02-1.87 (m, 1H), 1.68-1.53 (m, 1H), 1.32-1.00 (m, 2H); MS (ESI(+)) m/e 379 (M+H)+.

reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | 4-(imidazo[1,2-a]pyridin-7-ylmethylcarbamoyl)benzoic acid | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CC=C(C(=O)O)C=C2 | C16H13N3O3
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-N′-[(3S)-tetrahydrofuran-3-ylmethyl]benzene-1,4-dicarboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CC=C(C=C2)C(=O)NC[C@H]2COCC2 | C21H22N4O3
